US07423052B2
Description 82 (RS)-2-[2-(3-Methoxy-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperidine-1-carboxylic tert butyl ester
The title compound (3.06 g) was prepared from (RS)-2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (2.0 g) and 2-bromo-3′-methoxyacetophenone (1.88 g) according to the method of description 36.

reactant | (RS)-2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 2-bromo-3′-methoxyacetophenone | 1.88 g | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
product | (RS)-2-[2-(3-Methoxy-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperidine-1-carboxylic tert butyl ester | 3.06 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)OCC(=O)C1=CC(=CC=C1)OC | C21H29NO6
